US08871753B2
Step A: tert-Butyl (3S)-3-[({[6-chloro-2,4,8,18,22-pentaazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaen-12-yl]amino}carbonyl)amino]pyrrolidine-1-carboxylate
To a solution of 20% phosgene in toluene (0.49 mL, 0.93 mmol) was added a solution of tert-butyl (3S)-3-aminopyrrolidine-1-carboxylate (38 mg, 0.20 mmol) and triethylamine (102 μL, 0.734 mmol) in THF (0.5 mL). The resulting solution was stirred for 2 hours then concentrated. To the isolated solids was added DCM (0.75 mL) followed by 6-chloro-2,4,8,18,22-pentaazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaen-12-amine bis(trifluoroacetate) (70 mg, 0.1 mmol) and triethylamine (73 μL, 0.52 mmol). The resulting mixture was stirred at room temperature overnight and concentrated. The residue was purified by flash column chromatography to yield the desired product (34 mg, 50%). LCMS calculated for C27H32ClN8O3(M+H)+: m/z=551.1.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 0.93 mmol, 0.49 mL | C1(=CC=CC=C1)C | C7H8
reactant | tert-butyl (3S)-3-aminopyrrolidine-1-carboxylate | 0.20 mmol, 38 mg | N[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | triethylamine | 0.734 mmol, 102 μL | C(C)N(CC)CC | C6H15N
reactant | 6-chloro-2,4,8,18,22-pentaazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaen-12-amine bis(trifluoroacetate) | 0.1 mmol, 70 mg | FC(C(=O)O)(F)F.FC(C(=O)O)(F)F.ClC=1C=NC=2NC=3C=NC=C(CCC4=C(C=CC(NC1N2)=C4)N)C3
reactant | triethylamine | 0.52 mmol, 73 μL | C(C)N(CC)CC | C6H15N
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | tert-Butyl (3S)-3-[({[6-chloro-2,4,8,18,22-pentaazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaen-12-yl]amino}carbonyl)amino]pyrrolidine-1-carboxylate | 34 mg, 50% | ClC=1C=NC=2NC=3C=NC=C(CCC4=C(C=CC(NC1N2)=C4)NC(=O)N[C@@H]4CN(CC4)C(=O)OC(C)(C)C)C3 | C27H31ClN8O3
